US04329347
6-[4-(4-Nitrophenyl-sulfinyl)-butoxy]-carbostyril
Prepared analogous to Examples 123 from 6-[4-(4-nitrophenyl-mercapto)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 6-[4-(4-nitrophenyl-mercapto)-butoxy]-carbostyril | [N+](=O)([O-])C1=CC=C(C=C1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18N2O4S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Nitrophenyl-sulfinyl)-butoxy]-carbostyril | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18N2O5S
